US09145392B2
5-(3,4-Difluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine (“30”)
The title compound was prepared in an analogous manner as 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 3,4-difluorophenylboronic acid instead of 4-fluorophenylboronic acid. LC-MS: (M+1=533, obsd.=533).

reactant | 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | FC1=CC=C(C=C1)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C26H23F5N6
reactant | 3,4-difluorophenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 5-(3,4-Difluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | FC=1C=C(C=CC1F)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C26H22F6N6
